US07923450B2
c) 2-[1-Dimethylamino-methylidene]-6-(3-methyl-[1,2,4]oxadiazol-5-yl)-cyclohexanone
2-(3-Methyl-[1,2,4]oxadiazol-5-yl)-cyclohexanone (90 mg, 0.5 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (123 mg) as a red oil which was used directly in the next step. MS ISP (m/e): 236.1 [(M+H)+].

reactant | 2-(3-Methyl-[1,2,4]oxadiazol-5-yl)-cyclohexanone | 0.5 mmol, 90 mg | CC1=NOC(=N1)C1C(CCCC1)=O | C9H12N2O2
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 2-[1-Dimethylamino-methylidene]-6-(3-methyl-[1,2,4]oxadiazol-5-yl)-cyclohexanone | 123 mg | CN(C=C1C(C(CCC1)C1=NC(=NO1)C)=O)C | C12H17N3O2
